US04281188
7.7 g (0.021 M) of rac-3-ethyl-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 85 ml of concentrated hydrochloric acid, treated with 18 g of stannous chloride and stirred at room temperature for 30 minutes. The mixture is poured into a mixture of ice and sodium carbonate solution, extracted with methylene chloride and the extract is dried over sodium sulphate, filtered and concentrated. After crystallisation from ethyl acetate/ether there is obtained rac-7-amino-3-ethyl-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one which melts at 198°-199° C.

reactant | rac-3-ethyl-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.021 M, 7.7 g | C(C)C1C(N(C2=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(C=C2)[N+](=O)[O-])C)=O | C18H16ClN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 85 ml | Cl | ClH
product | rac-7-amino-3-ethyl-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)Cl)C1 | C18H18ClN3O
